US07553837B2
Production of 4-(±)-(5-amino-2,4,6,7-tetramethyldihydrobenzofuran-2-ylmethyl)-1-(4-imidazol-1-ylphenyl)piperidine
In an autoclave, to 0.45 g of 4-(±)-(5-amino-2,4,6,7-tetramethyldihydrobenzofuran-2-ylmethyl)-1-(4-imidazol-1-ylphenyl)-1,2,3,6-tetrahydropyridine and 0.1 g of 10% palladium carbon, 5 ml of ethanol and 5 ml of acetic acid were added, followed by stirring at 50° C. under a hydrogen pressure of 10 kg/cm2 for 7 hours. The reaction solution was poured into water, neutralized with 1N sodium hydroxide solution and then extracted with chloroform. The organic layer was washed with saturated saline and then dried over anhydrous magnesium sulfate. After removing magnesium sulfate by filtration and concentrating under reduced pressure, the resulting crystal was washed with hexane and then dried to obtain 0.39 g of the objective product (mp: 170-172° C.).

reactant | 4-(±)-(5-amino-2,4,6,7-tetramethyldihydrobenzofuran-2-ylmethyl)-1-(4-imidazol-1-ylphenyl)-1,2,3,6-tetrahydropyridine | 0.45 g | NC1=C(C(=C2C(CC(O2)(C)CC=2CCN(CC2)C2=CC=C(C=C2)N2C=NC=C2)C1C)C)C | C27H34N4O
reactant | ethanol | 5 ml | C(C)O | C2H6O
reactant | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
reactant | sodium hydroxide | 1N | [OH-].[Na+]
catalyst | palladium carbon | 0.1 g | [C].[Pd]
solvent | water | O | H2O
product | 4-(±)-(5-amino-2,4,6,7-tetramethyldihydrobenzofuran-2-ylmethyl)-1-(4-imidazol-1-ylphenyl)piperidine | 0.39 g | NC1=C(C(=C2C(CC(O2)(C)CC2CCN(CC2)C2=CC=C(C=C2)N2C=NC=C2)C1C)C)C | C27H36N4O
